US09260397B2
1-(4-nitrophenyl)-3-tetradecyl imidazolium bromide
According to the general synthesis procedure, 5.3 mmol (1.00 g) 1-(4-nitrophenyl)imidazole and 6.3 mmol (1.76 g, 1.70 ml) 1-bromotetradecane are dissolved in 5 ml THF and heated for 45 h to 90° C. At the end of the reaction the reaction mixture is cooled down to room temperature and the precipitated product is washed with THF and diethylether.

reactant | 1-(4-nitrophenyl)imidazole | 5.3 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=C1 | C9H7N3O2
reactant | 1-bromotetradecane | 6.3 mmol, 1.70 ml, 1.76 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-nitrophenyl)-3-tetradecyl imidazolium bromide | [Br-].[N+](=O)([O-])C1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCCCCCCCCC | InChI=1S/C23H36N3O2.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-18-24-19-20-25(21-24)22-14-16-23(17-15-22)26(27)28;/h14-17,19-21H,2-13,18H2,1H3;1H/q+1;/p-1
